US06689909B1
2,3-Dichloro-4-thiocyanatoaniline
To a cold (0-5° C.) solution of 2,3-dichloroaniline (2 g) and sodium thiocyanate (3 g) in MeOH (30 ml), was added a solution of bromine (2 g) in MeOH (10 ml) saturated with sodium bromide. The solution was left to stir for 1 hour. The reaction mixture was poured into water (200 ml) and neutralised with sodium carbonate to pH 8. The solid was collected by filtration and dried to yield the title compound as a white solid (2.38 g) 88%. NMR: 6.35 (s, 2H), 6.81 (d, 1H), 7.55 (d, 1H); m/z (EI+): 218.

reactant | 2,3-dichloroaniline | 2 g | ClC1=C(N)C=CC=C1Cl | C6H5Cl2N
reactant | sodium thiocyanate | 3 g | [S-]C#N.[Na+]
reactant | bromine | 2 g | BrBr | Br2
reactant | sodium bromide | [Br-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | MeOH | 30 ml | CO | CH4O
solvent | MeOH | 10 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
product | 2,3-Dichloro-4-thiocyanatoaniline | 2.38 g, 88% | ClC1=C(N)C=CC(=C1Cl)SC#N | C7H4Cl2N2S
